US04499097
1-[5-Methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-ethanone O-methyloxime
A 4.0 g (0.002 mole) amount of 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone was dissolved in 150 ml of boiling water. The solution was clarified by treatment with activated charcoal, then filtered. The filtrate was added to a mixture of 2.0 g (0.025 mole) of O-methylhydroxylamine hydrochloride, 2.0 g (0.025 mole) of sodium acetate and 10 ml of water. This mixture was stirred and heated on a steam bath for 16 hours. The hot solution was clarified with activated charcoal and filtered. A 150 ml volume of water was added to the filtrate which had developed a heavy precipitate. The mixture was stirred and heated to boiling and ethanol was added in small portions to effect solution. The hot solution was clarified with activated charcoal and filtered. The filtrate was cooled at 5° C. with formation of a precipitate. The solid was collected by filtration, washed with cold water and dried and gave 1.7 g of the desired product as a white solid, mp 203°-205° C.

reactant | 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]ethanone | CC1=C(N=C(N1)C=1C=NC=CC1)C(C)=O | C11H11N3O
reactant | charcoal | C | CH4
reactant | O-methylhydroxylamine hydrochloride | 0.025 mole, 2.0 g | Cl.CON
reactant | sodium acetate | 0.025 mole, 2.0 g | C(C)(=O)[O-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 1-[5-Methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-ethanone O-methyloxime | 1.7 g | CON=C(C)C=1N=C(NC1C)C=1C=NC=CC1 | C12H14N4O
